US06649633B2
A mixture if 2.0 g (9.3. mmol.) methyl-3-bromobenzoate, 1.5 g (10.2 mmol.) 4-formylbenzeneboronic acid and 537 mg (0.47 mmol.) tetrakis(triphenylphosphine)-palladium in 14 mL (27.9 mmol.) 2M Na2CO3 and 15 mL dimethoxyethane was heated at 80° C. for 4 hours. The mixture was poured into water and extracted with ethyl acetate. The ethyl acetate extracts were combined then washed successively with 1N NaOH, 1N HCl, water, brine then dried (MgSO4) and concentrated in vacuo to give an oil. Chromatography on Silica Gel eluting with ethyl acetate/hexanes (1:5) gave 1.6 g 4-formyl-biphenyl-3-carboxylic acid methyl ester as an oil.

reactant | methyl-3-bromobenzoate | 2.0 g | COC(C1=CC(=CC=C1)Br)=O | C8H7BrO2
reactant | 4-formylbenzeneboronic acid | 10.2 mmol, 1.5 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | Na2CO3 | 27.9 mmol, 2M, 14 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)-palladium | 0.47 mmol, 537 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-formyl-biphenyl-3-carboxylic acid methyl ester | 1.6 g | COC(=O)C=1C=C(C=CC1C=O)C1=CC=CC=C1 | C15H12O3
